US07045532B2
(S)-2-Amino-succinic acid 4-benzyl ester 1-methyl ester. To a solution of 2-tert-butoxycarbonylamino-succinic acid 4-benzyl ester (25 g, 77.31 mmol) in 2:1 mixture of toluene and methanol (200 ml, 100 ml) at 0° C. was added trimethylsilyldiazomethane (58 ml, 116 mmol) dropwise until a yellow color persisted. After stirring for ten minutes, the reaction was concentrated in vacuo. Purification by silica gel chromatography (10–30% ethyl acetate/hexane) gave 21.2 g of 2-tert-butoxycarbonylamino-succinic acid 4-benzyl ester 1-methyl ester. Rt=2.68, MH+=238. This product was then stirred for one hour at room temperature in 4N HCl in dioxane (157 ml, 565 mmol) and concentrated in vacuo. The solid was dissolved in ethyl acetate and washed three times with NaHCO3, once with brine, dried over Na2SO4, filtered, and concentrated in vacuo to give 15.79 g of the desired product. Rt=0.84, MH+=238. 49-3: (S,S)-2-(1-Methoxycarbonyl-3-methyl-butylamino)-succinic acid 4-benzyl ester 1-methyl ester. To a solution of 4-methyl-2-trifluoromethanesulfonylmethyl-pentanoic acid methyl ester (6.69 g, 25 mmol) and N,N-diisopropylethylamine (5.04 ml, 28.92 mmol) in methylene chloride at −78° C. was added 49-2 (4.57 g, 19.28 mmol) and the reaction was stirred overnight. The reaction was concentrated to dryness, then redissolved in ethyl acetate and washed twice with NaHCO3, once with brine, dried over Na2SO4, filtered, and concentrated in vacuo. Purification by silica gel chromatography gave 5.84 g of the desired product. Rt=2.85, MH+=366. 49-4: (S,S)-2-[2-(6-Chloro-benzothiazol-2-ylcarbamoyl)-1-methoxycarbonyl-ethylamino]-4-methyl-pentanoic acid methyl ester. A mixture of 49-3 (5.84 g) and Pd/C (0.200 g) in MeOH (100 ml) was stirred under 1 atmosphere of hydrogen for 1 h, filtered through a pad of celite and concentrated in vacuo to give 3.75 g of 2-(1-methoxycarbonyl-3-methyl-butylamino)-succinic acid 1-methyl ester. Rt=1.48, MH+=276. To a mixture of this product (3.75 g, 13.63 mmol), N,N-diisopropylethylamine (8.73 ml, 37.19 mmol), 6-chloro-benzothiazol-2-ylamine (2.28 g, 13.63 mmol), and benzotriazol-1-ol (1.84 g, 13.63 mmol) in methylene chloride at 0° C., was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.605 g, 13.63 mmol) and stirred at room temperature overnight. The reaction mixture was concentrated in vacuo, dissolved in ethyl acetate and washed twice with NaHCO3, twice with 1N HCl, once with brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification by silica gel chromatography gave 1.77 g of the desired product. Rt=2.89, MH+=442. 49-5: (S,S)-2-[1-Carboxy-2-(6-chloro-benzothiazol-2-ylcarbamoyl)-ethylamino]-4-methyl-pentanoic acid (Compound MB). To a solution of 49-4 (1.77 g, 4.013 mmol) in THF(15 ml), methanol (5 ml), and water (5 ml) was added LiOH—H2O (0.674 g, 16 mmol). The reaction stirred overnight at room temperature. After concentrating the organics in vacuo, the aqueous layer was acidified with 1N HCl until a white precipitate formed which was filtered and dried. The solid was dissolved in 4N HCl in dioxane and concentrated in vacuo to give 1.7 g of the HCl salt of the desired product. Rt=1.89, MH+=414, 1H NMR consistent with the assigned structure. Compounds synthesized using the same general procedure: (S,S)-2-[2-(Benzothiazol-2-ylcarbamoyl)-1-carboxy-ethylamino]-4-methyl-pentanoic acid: Rt=1.53, MH+=380. (S,S)-2-[1-Carboxy-2-(5,6-dichloro-benzothiazol-2-ylcarbamoyl)-ethylamino]-4-methyl-pentanoic acid (Compound MG): Rt=2.25, MH+=448. (S,S)-2-[1-Carboxy-2-(6-fluoro-benzothiazol-2-ylcarbamoyl)-ethylamino]-4-methyl-pentanoic acid: Rt=1.713, MH+=398. (S,S)-2-[2-(6-Bromo-benzothiazol-2-ylcarbamoyl)-1-carboxy-ethylamino]-4-methyl-pentanoic acid: Rt=1.95, MH+=460. (S,S)-2-[1-Carboxy-2-(6-methoxy-benzothiazol-2-ylcarbamoyl)-ethylamino]-4-methyl-pentanoic acid (Compound MO): Rt=1.62, MH+=410. (S,S)-2-[1-Carboxy-2-(6-ethoxy-benzothiazol-2-ylcarbamoyl)-ethylamino]-4-methyl-pentanoic acid (Compound MP): Rt=1.79, MH+=424. (S,S)-2-[1-Carboxy-2-(6-methyl-benzothiazol-2-ylcarbamoyl)-ethylamino]-4-methyl-pentanoic acid: Rt=1.75, MH+=394. (S,S)-2-[1-Carboxy-2-(4-phenyl-thiazol-2-ylcarbamoyl)-ethylamino]-4-methyl-pentanoic acid (Compound OH): Rt=1.81, MH+=406. (S,S)-2-[1-Carboxy-2-(5,6-dimethyl-benzothiazol-2-ylcarbamoyl)-ethylamino]-4-methyl-pentanoic acid (Compound MC): Rt=1.89, MH+=408. (S,S)-2-[1-Carboxy-2-(4-chloro-benzothiazol-2-ylcarbamoyl)-ethylamino]-4-methyl-pentanoic acid (Compound MD): Rt=1.89, MH+=414. (S,S)-2-{1-Carboxy-2-[(5-chloro-1H-indole-2-carbonyl)-amino]-ethylamino}-4-methyl-pentanoic acid: Rt=1.51, MH+=392. (S,S)-2-{1-Carboxy-2-[(5-methoxy-1H-indole-2-carbonyl)-amino]-ethylamino}-4-methyl-pentanoic acid: Rt=1.86, MH+=396.

reactant | (S,S)-2-[2-(6-Chloro-benzothiazol-2-ylcarbamoyl)-1-methoxycarbonyl-ethylamino]-4-methyl-pentanoic acid methyl ester | COC([C@H](CC(C)C)N[C@@H](CC(NC=1SC2=C(N1)C=CC(=C2)Cl)=O)C(=O)OC)=O | C19H24ClN3O5S
reactant | hydrogen | [H][H] | H2
reactant | MeOH | 100 ml | CO | CH4O
catalyst | Pd/C | 0.200 g | [Pd] | Pd
product | 2-(1-methoxycarbonyl-3-methyl-butylamino)-succinic acid 1-methyl ester | 3.75 g | COC(C(CC(=O)O)NC(CC(C)C)C(=O)OC)=O | C12H21NO6
